US07112594B2
N-[3-cyano-4-(2,2-dimethyl-3-hydroxypropoxy)phenylbenzo[b]furan-2-carboxamide
By the reaction and treatment in the same manner as in Example 6 using benzo[b]furan-2-carboxylic acid (0.7 g), 5-amino-2-(2,2-dimethyl-3-hydroxypropoxy)benzonitrile monohydrochloride (1.0 g) and triethylamine (0.6 ml), the title compound (0.26 g) was obtained. melting point: 199-201° C.

reactant | benzo[b]furan-2-carboxylic acid | 0.7 g | O1C2=C(C=C1C(=O)O)C=CC=C2 | C9H6O3
reactant | 5-amino-2-(2,2-dimethyl-3-hydroxypropoxy)benzonitrile monohydrochloride | 1.0 g | Cl.NC=1C=CC(=C(C#N)C1)OCC(CO)(C)C
reactant | triethylamine | 0.6 ml | C(C)N(CC)CC | C6H15N
product | 3-cyano-4-(2,2-dimethyl-3-hydroxypropoxy)phenylbenzo[b]furan-2-carboxamide | 0.26 g | C(#N)C=1C=C(C=CC1OCC(CO)(C)C)C=1C2=C(OC1C(=O)N)C=CC=C2 | C21H20N2O4
